US09259470B2
Potassium 2-methylpropan-2-olate (114 mg, 1.02 mmol), tetrabutylammonium iodide (57 mg, 0.15 mmol), and a solution of tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-methyl sulfonyloxyethyl)-1H-indole-1-carboxylate (0.61 mmol) in anhydrous THF (15 mL) were added to a suspension of 4-(2-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-4-yl)pyridin-2(1H)-one (139 mg, 0.510 mmol) in anhydrous THF (5.0 mL). The resulting mixture was stirred at 95° C. under microwave irradiation for 2 hours. The reaction mixture was then treated with water (20 mL) and diluted with DCM. After removal of the insoluble by filtration, the filtrate was extracted with DCM. The combined organic phase was dried over Na2SO4 and concentrated. The residue was purified with prep-HPLC to afford 1-(2-hydroxy-1-(1H-indol-2-yl)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one formate (4.6 mg, 1.1% yield) as a solid. 1H NMR (500 MHz, (CD3)2SO) δ 11.20 (s, 1H), 8.46-8.40 (m, 2H), 7.64 (d, J=7.0 Hz, 1H), 7.50 (d, J=8.5 Hz, 1H), 7.35-7.31 (m, 2H), 7.14-7.12 (m, 2H), 7.06 (m, 1H), 6.97 (m, 1H), 6.81 (d, J=7.0 Hz, 1H), 6.54 (s, 1H), 6.24 (m, 1H), 5.30 (m, 1H), 4.13-4.07 (m, 2H), 3.97 (m, 1H), 3.88-3.86 (m, 2H), 3.41-3.36 (m, 2H), 1.85-1.83 (m, 2H), 1.56-1.49 (m, 2H); LCMS (ESI) m/z: 432.2 [M+H]+.

reactant | Potassium 2-methylpropan-2-olate | 1.02 mmol, 114 mg | CC(C)(C)[O-].[K+]
reactant | tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-methyl sulfonyloxyethyl)-1H-indole-1-carboxylate | 0.61 mmol | [Si](C)(C)(C(C)(C)C)OCC(OS(=O)(=O)C)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C22H35NO6SSi
reactant | 4-(2-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.510 mmol, 139 mg | O1CCC(CC1)NC1=NC=CC(=N1)C1=CC(NC=C1)=O | C14H16N4O2
reactant | water | 20 mL | O | H2O
catalyst | tetrabutylammonium iodide | 0.15 mmol, 57 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(2-hydroxy-1-(1H-indol-2-yl)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one formate | 4.6 mg, 1.1% yield | C(=O)O.OCC(C=1NC2=CC=CC=C2C1)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O | InChI=1S/C24H25N5O3.CH2O2/c30-15-22(21-13-16-3-1-2-4-19(16)27-21)29-10-6-17(14-23(29)31)20-5-9-25-24(28-20)26-18-7-11-32-12-8-18;2-1-3/h1-6,9-10,13-14,18,22,27,30H,7-8,11-12,15H2,(H,25,26,28);1H,(H,2,3)
